US04873262
2-Dipropylamino-8-(2-butanesulphonamidoethoxy)-1,2,3,4-tetrahydronaphthalene
2.5 g (8.6 mmol) of 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene and 2.4 g (17.2 mmol) of potassium carbonate were initially introduced into 40 ml of toluene. 1.5 g (9.5 mmol) of butanesulphonyl chloride were added dropwise, and the mixture was then stirred for a further 2 h at room temperature. The mixture was then filtered and evaporated in a rotary evaporator. After chromatography on silica gel 60, 40-63 μm, using diisopropyl ether/ethanol, 3:2, the product was recrystallized from petroleum ether.

reactant | 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene | 8.6 mmol, 2.5 g | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCN)CCC | C18H30N2O
reactant | potassium carbonate | 17.2 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanesulphonyl chloride | 9.5 mmol, 1.5 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dipropylamino-8-(2-butanesulphonamidoethoxy)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCNS(=O)(=O)CCCC)CCC | C22H38N2O3S
